US04460580
Analogously to Example 4, a solution of 45 g of crude α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]benzyl alcohol in 500 ml of methanol is hydrogenated with the addition of 5 g of palladium-on-charcoal catalyst (5%) and the reaction mixture is worked up. α-[N-[2-(3-Carbamoyl-4-hydroxy-phenoxy)-ethyl]aminomethyl]-benzyl alcohol with a melting point of 174°-175° (from ethanol) is obtained. The methanesulfonate melts at 182°-183° (from methanol).

reactant | α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]benzyl alcohol | 45 g | C(C1=CC=CC=C1)N(CCOC1=CC(=C(C=C1)O)C(N)=O)CC(C1=CC=CC=C1)O | C24H26N2O4
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-on-charcoal | 5 g | [Pd] | Pd
product | α-[N-[2-(3-Carbamoyl-4-hydroxy-phenoxy)-ethyl]aminomethyl]-benzyl alcohol | C(N)(=O)C=1C=C(OCCNCC(C2=CC=CC=C2)O)C=CC1O | C17H20N2O4
